US04031103
A process as claimed in claim 1 wherein 2,6-diaminopyridine is reacted with 1,1,1,5,5,5-hexafluoroacetylacetone to provide 2-amino-5,7-di(trifluoromethyl)-1,8-naphthyridine.

reactant | 2,6-diaminopyridine | NC1=NC(=CC=C1)N | C5H7N3
reactant | 1,1,1,5,5,5-hexafluoroacetylacetone | C(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C5H2F6O2
product | 2-amino-5,7-di(trifluoromethyl)-1,8-naphthyridine | NC1=NC2=NC(=CC(=C2C=C1)C(F)(F)F)C(F)(F)F | C10H5F6N3
